### PR TITLE
Proof of young_convolution

### PR DESCRIPTION
**Pull request by js2357**
Add some API for `AddCircle`, then prove `young_convolution` by interpreting it as Young's convolution inequality on `AddCircle`.

Notes: 

- The version of Young's convolution inequality that I proved previously assumed functions were a.e. measurable, but it worked better here to have a version that assumed a.e. strongly measurable. Under the other assumptions of the theorem, a.e. measurable and a.e. strongly measurable aren't necessarily equivalent, so I kept both versions, even though they'll be equivalent in the vast majority of applications.
- I made some other (very minor) changes to my previous work. I changed `lintegral_prod_norm_pow_le'` to use `(p i)⁻¹` rather than `1 / (p i)`, and I made `L` an explicit argument to Young's convolution inequality so that `(by simp)` can be used for `hL`.

### CODE REVIEW

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean [hunk 1]
```diff
@@ -0,0 +1,134 @@
...
+namespace AddCircle
+
+variable {B : Type*}
+
+section AE
+
+variable {p a : ℝ} [hp : Fact (0 < p)] (f : ℝ → B)
+
+instance noAtoms_volume : NoAtoms (volume : Measure (AddCircle p)) where
+  measure_singleton x := by simpa [hp.out.le] using AddCircle.volume_closedBall p (x := x) 0
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean:20]: Is this not true without `hp`?

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean [hunk 2]
```diff
@@ -0,0 +1,134 @@
...
+
+theorem liftIoc_eq_liftIco_of_ne {x : AddCircle p} (x_ne_a : x ≠ a) :
+    liftIoc p a f x = liftIco p a f x := by
+  let b := QuotientAddGroup.equivIcoMod hp.out a x
+  have x_eq_b : x = ↑b := (QuotientAddGroup.equivIcoMod hp.out a).apply_eq_iff_eq_symm_apply.mp rfl
+  rw [x_eq_b, liftIco_coe_apply b.coe_prop]
+  exact liftIoc_coe_apply ⟨lt_of_le_of_ne b.coe_prop.1 (x_ne_a <| · ▸ x_eq_b), b.coe_prop.2.le⟩
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean:27]: Can you move that to an earlier file?

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean [hunk 3]
```diff
@@ -0,0 +1,134 @@
...
+    (volume.map (equivIoc p a)).map Subtype.val = volume.restrict (Ioc a (a + p)) := by
+  have h : Measurable (equivIoc p a) := (AddCircle.measurableEquivIoc p a).measurable_toFun
+  rw [← (AddCircle.measurePreserving_mk p a).map_eq]
+  rw [Measure.map_map measurable_subtype_coe h, Measure.map_map (measurable_subtype_coe.comp h)]
+  · exact (Measure.map_congr <| Filter.Eventually.mono (self_mem_ae_restrict measurableSet_Ioc) <|
+      fun x hx ↦ AddCircle.liftIoc_coe_apply hx).trans Measure.map_id
+  · exact fun _ ↦ id
+
+theorem liftIoc_aestronglyMeasurable [TopologicalSpace B] (hf : AEStronglyMeasurable f) :
+    AEStronglyMeasurable (liftIoc p a f) :=
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean:48]:
```suggestion
protected theorem AEStronglyMeasurable.liftIoc [TopologicalSpace B]
    (hf : AEStronglyMeasurable f) : AEStronglyMeasurable (liftIoc p a f) :=
```
Same below

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean [hunk 4]
```diff
@@ -0,0 +1,134 @@
...
+section Convolution
+
+variable {𝕜 : Type*} {E : Type*} {E' : Type*} {F : Type*} [NormedAddCommGroup E]
+  [NormedAddCommGroup E'] [NormedAddCommGroup F] [NontriviallyNormedField 𝕜] [NormedSpace 𝕜 E]
+  [NormedSpace 𝕜 E'] [NormedSpace 𝕜 F] [NormedSpace ℝ F] (L : E →L[𝕜] E' →L[𝕜] F)
+  {f : ℝ → E} {g : ℝ → E'}
+
+variable {T : ℝ} [hT : Fact (0 < T)] (a : ℝ)
+
+theorem convolution_liftIco (hf : f.Periodic T) (hg : g.Periodic T) :
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean:76]:
```suggestion
theorem liftIco_convolution_liftIco (hf : f.Periodic T) (hg : g.Periodic T) :
```
Same below

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean (hunk 1 above)
Comment (js2357) [reply Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean:20]: Mathlib only defines the `MeasureSpace` instance for `AddCircle` when `p>0`.

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean (hunk 4 above)
Comment (js2357) [reply Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean]: Done

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean (hunk 2 above)
Comment (js2357) [reply Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean]: Done.

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean (hunk 3 above)
Comment (js2357) [reply Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean]: Done

**Comment by js2357** [comment]
The `\leanok` is added to the blueprint. I have not updated the blueprint to reflect that the proof there has been replaced by the more general proof.

File: Carleson/ToMathlib/Topology/Instances/AddCircle.lean [hunk 5]
```diff
@@ -0,0 +1,65 @@
...
+
+end LinearOrderedAddCommGroup
+
+section Periodic
+
+variable [LinearOrderedAddCommGroup 𝕜] [Archimedean 𝕜] {p : 𝕜} [hp : Fact (0 < p)] (a a' : 𝕜)
+  {f : 𝕜 → B} (hf : f.Periodic p)
+include hf
+
+theorem liftIco_coe_apply_of_periodic (x : 𝕜) : liftIco p a f ↑x = f x := by
```
Comment (YaelDillies) [inline Carleson/ToMathlib/Topology/Instances/AddCircle.lean:34]: Not sure what the `coe` is referring to, but I believe it should rather be 
```suggestion
theorem liftIco_coe_of_periodic (x : 𝕜) : liftIco p a f ↑x = f x := by
```
or even
```suggestion
theorem liftIco_quotientAddGroupMk (x : 𝕜) : liftIco p a f ↑x = f x := by
```

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean [hunk 6]
```diff
@@ -0,0 +1,135 @@
...
+
+section AE
+
+variable {B : Type*} {p a : ℝ} [hp : Fact (0 < p)] (f : ℝ → B)
+
+instance AddCircle.noAtoms_volume : NoAtoms (volume : Measure (AddCircle p)) where
+  measure_singleton x := by simpa [hp.out.le] using AddCircle.volume_closedBall p (x := x) 0
+
+theorem AddCircle.liftIoc_ae_eq_liftIco : liftIoc p a f =ᶠ[ae volume] liftIco p a f :=
+  Filter.Eventually.mono (by simp [Filter.Eventually, ae]) (fun _ ↦ liftIoc_eq_liftIco_of_ne f)
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean:20]:
```suggestion
  .mono (by simp [Filter.Eventually, ae]) (fun _ ↦ liftIoc_eq_liftIco_of_ne f)
```

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean [hunk 7]
```diff
@@ -0,0 +1,135 @@
...
+
+end AE
+
+
+section Measurability
+
+variable {E : Type*} (p a : ℝ) [hp : Fact (0 < p)] {f : ℝ → E}
+
+lemma AddCircle.map_subtypeVal_map_equivIoc :
+    (volume.map (equivIoc p a)).map Subtype.val = volume.restrict (Ioc a (a + p)) := by
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean:30]: `volume` should appear in the name

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean [hunk 8]
```diff
@@ -0,0 +1,135 @@
...
+  have h : Measurable (equivIoc p a) := (AddCircle.measurableEquivIoc p a).measurable_toFun
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean:31]: That should exist as a lemma

File: Carleson/ToMathlib/MeasureTheory/Integral/MeanInequalities.lean [hunk 9]
```diff
@@ -219,17 +230,15 @@ theorem enorm_convolution_le_eLpNorm_mul_eLpNorm_mul_eLpNorm {p q r : ℝ}
...
-      have ae_meas_f : AEMeasurable (‖f ·‖ₑ) μ := hf.enorm
-      have ae_meas_g : AEMeasurable (‖g <| x - ·‖ₑ) μ :=
-        (hg.comp_quasiMeasurePreserving <| quasiMeasurePreserving_sub_left μ x).enorm
-      have := (ae_meas_f.pow_const p).mul (ae_meas_g.pow_const q)
+      have ae_meas_g := hg x
+      have := (hf.pow_const p).mul (ae_meas_g.pow_const q)
       have ae_meas : ∀ i ∈ Finset.univ, AEMeasurable (F i) μ :=
         fun ⟨v, _⟩ _ ↦ by interval_cases v <;> exact AEMeasurable.pow_const (by assumption) _
-      suffices ∑ i ∈ Finset.univ, 1 / P i = 1 by
+      suffices ∑ i ∈ Finset.univ, (P i)⁻¹ = 1 by
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/MeanInequalities.lean:237]:
```suggestion
      suffices ∑ i, (P i)⁻¹ = 1 by
```

File: Carleson/ToMathlib/Topology/Instances/AddCircle.lean (hunk 5 above)
Comment (js2357) [reply Carleson/ToMathlib/Topology/Instances/AddCircle.lean:34]: My idea was to keep the naming parallel to the existing [liftIco_coe_apply](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/AddCircle.html#AddCircle.liftIco_coe_apply)

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean (hunk 8 above)
Comment (js2357) [reply Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean]: Done

File: Carleson/ToMathlib/Topology/Instances/AddCircle.lean (hunk 5 above)
Comment (YaelDillies) [reply Carleson/ToMathlib/Topology/Instances/AddCircle.lean:34]: `liftIco_coe_apply` looks misnamed too. Can you leave here a TODO to rename it?

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean [hunk 10]
```diff
@@ -0,0 +1,165 @@
...
+import Mathlib.Analysis.Convolution
+import Carleson.ToMathlib.Topology.Instances.AddCircle
+
+open Set Function MeasureTheory MeasureTheory.Measure TopologicalSpace AddSubgroup intervalIntegral
+
+open scoped MeasureTheory NNReal ENNReal
+
+open scoped Convolution
+
+
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean:11]:
```suggestion
```

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean [hunk 11]
```diff
@@ -0,0 +1,165 @@
...
+section AE
+
+variable (T : ℝ) [hT : Fact (0 < T)]
+
+instance AddCircle.noAtoms_volume : NoAtoms (volume : Measure (AddCircle T)) where
+  measure_singleton x := by simpa [hT.out.le] using AddCircle.volume_closedBall T (x := x) 0
+
+variable {B : Type*} {T a : ℝ} [hT : Fact (0 < T)] (f : ℝ → B)
+
+theorem AddCircle.liftIoc_ae_eq_liftIco : liftIoc T a f =ᶠ[ae volume] liftIco T a f :=
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean:21]:
```suggestion
theorem AddCircle.liftIoc_ae_eq_liftIco : liftIoc T a f =\^m[volume] liftIco T a f :=
```
(sorry, not on a computer). Same everywhere

File: Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean [hunk 12]
```diff
@@ -0,0 +1,164 @@
...
+  (hf.liftIoc T a).congr (liftIoc_ae_eq_liftIco f)
+
+end MeasureTheory
+
+
+namespace AddCircle
+
+section Convolution
+
+variable {𝕜 : Type*} {E : Type*} {E' : Type*} {F : Type*} [NormedAddCommGroup E]
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/Periodic.lean:100]:
```suggestion
variable {𝕜 E E' F : Type*} [NormedAddCommGroup E]
```

**Review by YaelDillies — APPROVED** [review]
Looks all good to me, thanks!
